US05196570
5-[2-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenyl]-pentan-1-ol
For cleavage of silyl ether, 984 mg of tetrabutylammonium fluoride trihydrate is added to a solution of 200 mg of above-produced acetate in 4 ml of tetrahydrofuran and stirred for 1.5 hours at 24° C. Then, it is diluted with ether, washed with water, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue thus obtained is filtered on silica gel with hexane/ethyl acetate (1+1) and the solution is concentrated by evaporation in a vacuum. Then, the crude product is chromatographed on silica gel with hexane/10-50% of ethyl acetate. 92 mg of the title compound is obtained as a colorless oil.

reactant | silyl ether | [SiH3]O[SiH3] | H6OSi2
reactant | tetrabutylammonium fluoride trihydrate | 984 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetate | 200 mg | C(C)(=O)[O-]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-[2-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenyl]-pentan-1-ol | 92 mg | C(C)(=O)OC(/C=C/C=C/C1=C(C=CC=C1)CCCCCO)CCCCCCCC | C26H40O3
